US07718689B2
1,4-Bis(ethyloxy)-6-fluoro-2,3-naphthalenedicarboxylic acid
A mixture of diethyl 1,4-bis(ethyloxy)-6-fluoro-2,3-naphthalenedicarboxylate (2.5 g, 6.6 mmol), ethanol (50 ml) and sodium hydroxide (50 ml) was heated under reflux for 1 hour. The reaction mixture was cooled and concentrated in vacuo. This was acidified with 2N HCl (˜50 ml) and extracted with EtOAc (×2). Combined organics were washed with brine, dried over magnesium sulphate and concentrated in vacuo to give the title compound as a yellow solid (2.24 g).

reactant | diethyl 1,4-bis(ethyloxy)-6-fluoro-2,3-naphthalenedicarboxylate | 6.6 mmol, 2.5 g | C(C)OC1=C(C(=C(C2=CC(=CC=C12)F)OCC)C(=O)OCC)C(=O)OCC | C20H23FO6
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1,4-Bis(ethyloxy)-6-fluoro-2,3-naphthalenedicarboxylic acid | 2.24 g | C(C)OC1=C(C(=C(C2=CC(=CC=C12)F)OCC)C(=O)O)C(=O)O | C16H15FO6
